US06903132B2
In 500 mL roundbottom flask, 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthalenol (10.2 g, 46.72 mmol) was dissolved in 100 mL Acetic Acid. To this solution Bromine (8.2 g, 51.39 mmol) was added. The reaction was stirred at room temperature for 20 minutes. The reaction mixture was poured into water and extracted with ethyl acetate. The separated organic layer was washed with brine, dried over magnesium sulfate and concentrated. The crude product was purified by silica gel chromatography eluted with hexane to yield 1-Bromo-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthalenol (12.8 g, 92% yield).

reactant | 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthalenol | 46.72 mmol, 10.2 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C15H22O
reactant | Bromine | 51.39 mmol, 8.2 g | BrBr | Br2
reactant | water | O | H2O
solvent | Acetic Acid | 100 mL | C(C)(=O)O | C2H4O2
product | 1-Bromo-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthalenol | 12.8 g, 92% yield | BrC1=C(C(=CC=2C(CCC(C12)(C)C)(C)C)C)O | C15H21BrO
